US07378409B2
To a solution of tert-butyl (1R,3R,4S)-4-((benzyloxycarbonyl)amino)-3-carbamoylcyclohexylcarbamate (4.8 g, 0.01 mol) in 50 ml of dry THF was added Lawesson's reagent (2.97 g, 0.007 mol) portionwise under nitrogen. After the completion of addition the reaction mixture was stirred for 5 h at RT. THF was removed and the crude product was dissolved in ethyl acetate. The organic layer was washed with 10% sodium hydroxide, water, brine and concentrated. The crude product was purified by recrystallization from pet-ether and ether mixture to give 3.5 g crude of tert-butyl (1R,3R,4S)-4-((benzyloxycarbonyl)amino)-3-carbamothioylcyclohexylcarbamate as a white solid.

reactant | tert-butyl (1R,3R,4S)-4-((benzyloxycarbonyl)amino)-3-carbamoylcyclohexylcarbamate | 0.01 mol, 4.8 g | C(C1=CC=CC=C1)OC(=O)N[C@@H]1[C@@H](C[C@@H](CC1)NC(OC(C)(C)C)=O)C(N)=O | C20H29N3O5
reactant | Lawesson's reagent | 0.007 mol, 2.97 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | tert-butyl (1R,3R,4S)-4-((benzyloxycarbonyl)amino)-3-carbamothioylcyclohexylcarbamate | C(C1=CC=CC=C1)OC(=O)N[C@@H]1[C@@H](C[C@@H](CC1)NC(OC(C)(C)C)=O)C(N)=S | C20H29N3O4S
